US07820683B2
(2S)—N,N-dimethyl-2-[(4-{[1-(1,3-thiazol-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanamide
Using the same procedure as in Example 26, methyl (2S)-2-[(4-{[1-(1,3-thiazol-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoate (250 mg, 0.54 mmol) was reacted with dimethylamine to give the title compound as a white solid (195 mg, 76%); NMR Spectrum 1.59 (d, 3H), 2.93 (s, 3H), 3.14 (s, 3H), 5.85 (q, 1H), 6.04 (s, 2H), 7.30 (d, 1H), 7.35 (d, 1H), 7.65 (d, 1H), 7.74 (m, 3H), 7.87 (dd, 1H), 8.20 (s, 1H), 8.51 (s, 1H), 8.55 (s, 1H), 11.15 (br s, 1H); Mass spectrum 474.

reactant | methyl (2S)-2-[(4-{[1-(1,3-thiazol-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoate | 0.54 mmol, 250 mg | S1C(=NC=C1)CN1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC=CC(=C12)O[C@H](C(=O)OC)C | C23H20N6O3S
reactant | dimethylamine | CNC | C2H7N
product | (2S)—N,N-dimethyl-2-[(4-{[1-(1,3-thiazol-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanamide | 195 mg, 76% | CN(C([C@H](C)OC1=C2C(=NC=NC2=CC=C1)NC=1C=C2C=NN(C2=CC1)CC=1SC=CN1)=O)C | C24H23N7O2S
